US05041455
B. 3-(4-(2-butoxyethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
A mixture of methyl iodide (0.5 ml, 9 mmol) and 3-(4-(2-butoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine (3 mmol) in acetone (4 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 1.07 g (85%).

reactant | methyl iodide | 9 mmol, 0.5 ml | CI | CH3I
reactant | 3-(4-(2-butoxyethoxy)-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol | C(CCC)OCCOC=1C(=NSN1)C=1C=NC=CC1 | C13H17N3O2S
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 3-(4-(2-butoxyethoxy)-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CCC)OCCOC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C14H20N3O2S.HI/c1-3-4-8-18-9-10-19-14-13(15-20-16-14)12-6-5-7-17(2)11-12;/h5-7,11H,3-4,8-10H2,1-2H3;1H/q+1;/p-1
